US08034812B2
Production of methyl 3-(imidazo[1,2-b]pyridazin-6-yloxy)benzoate
A mixture of 6-chloroimidazo[1,2-b]pyridazine (1536 mg, 10.0 mmol), methyl 3-hydroxybenzoate (1978 mg, 13.0 mmol), potassium carbonate (4146 mg, 30.0 mmol) and N-methylpyrrolidone (10 mL) was stirred at 120° C. for 18 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and concentrated under reduced pressure. The residue was purified by NH silica gel column chromatography (hexane/ethyl acetate=90/10→20/80). The objective fraction was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=60/40→0/100) and precipitated from diisopropyl ether to give the title compound (1722 mg, 6.4 mmol, yield 64%) as a white solid.

reactant | 6-chloroimidazo[1,2-b]pyridazine | 10.0 mmol, 1536 mg | ClC=1C=CC=2N(N1)C=CN2 | C6H4ClN3
reactant | methyl 3-hydroxybenzoate | 13.0 mmol, 1978 mg | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | potassium carbonate | 30.0 mmol, 4146 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-methylpyrrolidone | 10 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | methyl 3-(imidazo[1,2-b]pyridazin-6-yloxy)benzoate | 6.4 mmol, 1722 mg, yield 64% | N=1C=CN2N=C(C=CC21)OC=2C=C(C(=O)OC)C=CC2 | C14H11N3O3
